US08138181B2
5-(8-((trans)-3-fluoropiperidin-4-yloxy)-2-(7-(2-methoxyethoxy)imidazo[1.2-a]pyridin-3-yl)quinolin-4-yl)oxazole
Preparation of (trans)tert-butyl 3-fluoro-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-4-oxazol-5-yl)quinolin-8-yloxy)piperidine-1-carboxylate: To 2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-4-(oxazol-5-yl)quinolin-8-ol (9 mg, 0.02 mmol) in DMA (2 mL) was added (cis)-tert-butyl 3-fluoro-4-(methylsulfonyloxy)piperidine-1-carboxylate (13 mg, 0.04 mmol) and Cs2CO3 (22 mg, 0.07 mmol). The reaction vial was sealed and heated to 106° C. for 4 hours. The reaction was cooled to ambient temperature and concentrated. The crude residue was purified by flash column chromatography (DCM/MeOH 10:1) providing the desired product (3%).

reactant | piperidine-1-carboxylate | N1(CCCCC1)C(=O)[O-]
reactant | 2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-4-(oxazol-5-yl)quinolin-8-ol | 0.02 mmol, 9 mg | COCCOC1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C(=C2)C2=CN=CO2)O | C22H18N4O4
reactant | (cis)-tert-butyl 3-fluoro-4-(methylsulfonyloxy)piperidine-1-carboxylate | 0.04 mmol, 13 mg | F[C@@H]1CN(CC[C@@H]1OS(=O)(=O)C)C(=O)OC(C)(C)C | C11H20FNO5S
reactant | Cs2CO3 | 0.07 mmol, 22 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | 5-(8-((trans)-3-fluoropiperidin-4-yloxy)-2-(7-(2-methoxyethoxy)imidazo[1.2-a]pyridin-3-yl)quinolin-4-yl)oxazole | 3% | F[C@@H]1CNCC[C@H]1OC=1C=CC=C2C(=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C2=CN=CO2 | C27H26FN5O4
